US07834051B2
(6S)-7-(tert-butyldimethylsilyloxy)-6-methyl-5-azaspiro[2.4]heptan-4-one
To a solution of tert-butyl 1-((2S)-2-{[(benzyloxy)carbonyl]amino}-1-(tert-butyldimethylsilyloxy)propyl)cyclopropanecarboxylate (693.9 mg) in methanol (8 mL) was added 10% palladium carbon (containing 50% water, 80 mg), and the mixture was stirred at room temperature for 3 hr under a hydrogen atmosphere and filtered. The filtrate was concentrated under reduced pressure, and the residue was dissolved in methanol (10 mL). Sodium methoxide (404 mg) was added and the mixture was refluxed for 4 hr. A saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=30/1→1/3) to give the title compound as a colorless solid (yield: 200.8 mg, yield: 60%).

reactant | tert-butyl 1-((2S)-2-{[(benzyloxy)carbonyl]amino}-1-(tert-butyldimethylsilyloxy)propyl)cyclopropanecarboxylate | 693.9 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(O[Si](C)(C)C(C)(C)C)C1(CC1)C(=O)OC(C)(C)C)C | C25H41NO5Si
solvent | methanol | 8 mL | CO | CH4O
catalyst | palladium carbon | 80 mg | [C].[Pd]
product | (6S)-7-(tert-butyldimethylsilyloxy)-6-methyl-5-azaspiro[2.4]heptan-4-one | yield: 200.8 mg, yield: 60% | [Si](C)(C)(C(C)(C)C)OC1[C@@H](NC(C12CC2)=O)C | C13H25NO2Si
